US05852031
A mixture of 1.05 g (6.17 mmol) of (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine (U.S. Pat. No. 5,326,874) and 1.29 g (9.25 mmol) of 2,5-difluorobenzonitrile in 20 mL of DMSO was heated at 100° C. for 16 h. The mixture was cooled to room temperature, acidified with 1M HCl, washed with ether (3×), made basic with conc. ammonium hydroxide, and extracted with ethyl acetate (3×). The combined organic layers were washed with water (3×), dried (magnesium sulfate), filtered and evaporated. Purification by silica gel MPLC with 90:10 chloroform:methanol gave 0.51 g of (7RS,9aSR)-7-hydroxymethyl-2-(2-cyano-4-fluorophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine.

reactant | (7RS,9aSR)-7-hydroxymethyl-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 6.17 mmol, 1.05 g | OCC1CCC2N(CCNC2)C1 | C9H18N2O
reactant | 2,5-difluorobenzonitrile | 9.25 mmol, 1.29 g | FC1=C(C#N)C=C(C=C1)F | C7H3F2N
reactant | HCl | 1M | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | (7RS,9aSR)-7-hydroxymethyl-2-(2-cyano-4-fluorophenyl)-2,3,4,6,7,8,9,9a-octahydro-1H-pyrido[1,2-a]pyrazine | 0.51 g | OCC1CCC2N(CCN(C2)C2=C(C=C(C=C2)F)C#N)C1 | C16H20FN3O
